US04977162
2-cyano-7-(3-(quinolin-2-ylmethoxy)benzyloxy)-4-oxo-4H-1-benzopyran (2.97 mmoles), sodium azide (965 mg), pyridine hydrochloride (1.72 g) and dimethylformamide (7 ml) are combined and heated at 100° C. for 48 hours The reaction mixture is poured into cold water and the resulting precipitate is collected. The precipitate is dissolved in hot ethanol and reprecipitated by addition of water to give 5-(7-(3-(quinolin-2-ylmethoxy)benzyloxy)-4-oxo-4H-1-benzopyran-2-yl)tetrazole which decomposes at 203° C.

reactant | 2-cyano-7-(3-(quinolin-2-ylmethoxy)benzyloxy)-4-oxo-4H-1-benzopyran | 2.97 mmoles | C(#N)C=1OC2=C(C(C1)=O)C=CC(=C2)OCC2=CC(=CC=C2)OCC2=NC1=CC=CC=C1C=C2 | C27H18N2O4
reactant | sodium azide | 965 mg | [N-]=[N+]=[N-].[Na+]
reactant | pyridine hydrochloride | 1.72 g | Cl.N1=CC=CC=C1
reactant | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-(7-(3-(quinolin-2-ylmethoxy)benzyloxy)-4-oxo-4H-1-benzopyran-2-yl)tetrazole | N1=C(C=CC2=CC=CC=C12)COC=1C=C(COC2=CC3=C(C(C=C(O3)C3=NN=NN3)=O)C=C2)C=CC1 | C27H19N5O4
